US07902219B2
0.32 g of phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrobromide (1:1) is suspended in 10 mL of ethanol and the reaction medium is refluxed for 2 hours and then concentrated under reduced pressure. The residue is taken up in 10 mL of dichloromethane and 3 mL of aqueous normal sodium hydroxide solution. The organic phase is washed with water, dried over magnesium sulfate and concentrated to dryness under reduced pressure to give 220 mg of phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone in the form of a yellow solid.

reactant | phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone hydrobromide | 0.32 g | Br.C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | phenyl[6-(trifluoromethyl)imidazo[1,2-a]pyridin-2-yl]methanone | 220 mg | C1(=CC=CC=C1)C(=O)C=1N=C2N(C=C(C=C2)C(F)(F)F)C1 | C15H9F3N2O
